US07728029B2
To a solution of N′-isopropylidene-N-(3-methoxypropyl)-hydrazinecarboxylic acid tert-butyl ester (6.49 g, 26.6 mmol) in tetrahydroufuran (50 mL) was added 2.0N hydrochloric acid (27 mL). The solution was heated to reflux (˜80° C.) in a preheated oil bath for 3 h. The solution was cooled to room temperature and concentrated in vacuo to remove the tetrahydrofuran. To the aqueous layer was added toluene (200 mL) and the water was removed via concentrating in vacuo (this was repeated 2 additional times) providing (3-methoxypropyl)-hydrazine dihydrochloric acid (4.65 g, 96%) as a light yellow sticky solid, which was used without further purification.

reactant | N′-isopropylidene-N-(3-methoxypropyl)-hydrazinecarboxylic acid tert-butyl ester | 26.6 mmol, 6.49 g | C(C)(C)(C)OC(=O)N(N=C(C)C)CCCOC | C12H24N2O3
reactant | hydrochloric acid | 2.0N, 27 mL | Cl | ClH
product | (3-methoxypropyl)-hydrazine dihydrochloric acid | 4.65 g, 96% | Cl.Cl.COCCCNN | InChI=1S/C4H12N2O.2ClH/c1-7-4-2-3-6-5;;/h6H,2-5H2,1H3;2*1H
